US06498169B1
Synthesis of 4-[N-Benzyl-N-[3-(3,4,5-trimethoxyphenyl)benzyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Trihydrochloride
4-Benzylamino-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine (134 mg) and 3-(3,4,5-trimethoxyphenyl)benzyl chloride (114 mg) were condensed by the same manner as described in Example 9. Yellow oil of a free base was converted to a trihydrochloride which gave the title compound as yellow powder.

reactant | 4-Benzylamino-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | 134 mg | C(C1=CC=CC=C1)NC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C27H33N3O3
reactant | 3-(3,4,5-trimethoxyphenyl)benzyl chloride | 114 mg | COC=1C=C(C=C(C1OC)OC)C=1C=C(CCl)C=CC1 | C16H17ClO3
product | 4-[N-Benzyl-N-[3-(3,4,5-trimethoxyphenyl)benzyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Trihydrochloride | Cl.Cl.Cl.C(C1=CC=CC=C1)N(CC1=CC(=CC=C1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C43H49N3O6.3ClH/c1-47-38-23-34(24-39(48-2)42(38)51-5)33-14-10-13-31(21-33)29-46(28-30-11-8-7-9-12-30)36-16-19-45(20-17-36)27-32-15-18-44-37(22-32)35-25-40(49-3)43(52-6)41(26-35)50-4;;;/h7-15,18,21-26,36H,16-17,19-20,27-29H2,1-6H3;3*1H
